### PR TITLE
[Merged by Bors] - feat(RingTheory/Noetherian/Basic): order relation on FG submodules

### PR DESCRIPTION
**Pull request by martinwintermath**
Add theorems that prove that submodules contained in FG/noetherian submodules are FG.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/RingTheory/Noetherian/Basic.lean [hunk 1]
```diff
@@ -357,3 +357,24 @@ instance {ι} [Finite ι] : ∀ {R : ι → Type*} [Π i, Semiring (R i)] [∀ i
...
+variable [AddCommGroup M] [Module R M]
+variable [AddCommGroup N] [Module R N]
+
+/-- The intersection of a submodule with an FG submodule is FG. -/
+theorem inf_fg_right (S : Submodule R M) {T : Submodule R M} (hT : T.FG) : (S ⊓ T).FG :=
+  isNoetherian_submodule_right.mp (isNoetherian_of_fg_of_noetherian _ hT) S
+
+/-- The intersection of a submodule with an FG submodule is FG. -/
+theorem inf_fg_left {S : Submodule R M} (hS : S.FG) (T : Submodule R M) : (S ⊓ T).FG :=
+  isNoetherian_submodule_left.mp (isNoetherian_of_fg_of_noetherian _ hS) T
```
Comment (erdOne) [inline Mathlib/RingTheory/Noetherian/Basic.lean]: I'm not sure if we need these.
Is `hS.of_le inf_le_left` not enough?
If not then this should be called `FG.inf_of_left` and work for `IsNoetherian R M`.

File: Mathlib/RingTheory/Noetherian/Basic.lean [hunk 2]
```diff
@@ -357,3 +357,24 @@ instance {ι} [Finite ι] : ∀ {R : ι → Type*} [Π i, Semiring (R i)] [∀ i
...
+
+/-- A submodule contained in an FG submodule is FG. -/
+theorem fg_of_le {S T : Submodule R M} (hT : T.FG) (hST : S ≤ T) : S.FG :=
+    isNoetherian_submodule.mp (isNoetherian_of_fg_of_noetherian _ hT) _ hST
```
Comment (erdOne) [inline Mathlib/RingTheory/Noetherian/Basic.lean]: This should only assume `IsNoetherian R M`.
And this could be called `FG.of_le`.

Comment (martinwintermath) [reply Mathlib/RingTheory/Noetherian/Basic.lean]: Not every module over a noetherian ring is noetherian. One situation I want to prove this for are infinite dimensional vector spaces (not noetherian) over a field (noetherian). Same for the other comment. Maybe one wants to have analogue theorems for `IsNoetherian R M`, but this was not the intention here. If we want the analogue theorems, what names should be choose?

Comment (erdOne) [reply Mathlib/RingTheory/Noetherian/Basic.lean]: Yes you are totally right. Then `IsNoetherianRing R` is fine. Maybe `FG.of_le_of_isNoetherianRing`.

File: Mathlib/RingTheory/Noetherian/Basic.lean (hunk 1 above)
Comment (erdOne) [reply Mathlib/RingTheory/Noetherian/Basic.lean]: So do you really need this in your applications?

Comment (martinwintermath) [reply Mathlib/RingTheory/Noetherian/Basic.lean]: I removed them and in my application I will replace them by the lines you give. If I need them after all I make a new PR.

File: Mathlib/RingTheory/Noetherian/Basic.lean (hunk 2 above)
Comment (martinwintermath) [reply Mathlib/RingTheory/Noetherian/Basic.lean]: Both variants that we discussed can be derived from a third variant with `IsNoetherian R S` for the submodule `S`. See the new commit. The following is then automatic:

```lean4
example [IsNoetherian R M] {S T : Submodule R M} (hST : S ≤ T) : S.FG := 
  FG.of_le_isNoetherian hST

example [IsNoetherianRing R] {S T : Submodule R M} [Module.Finite R T] (hST : S ≤ T) : S.FG := 
  FG.of_le_isNoetherian hST
```

Regarding naming: Some don't know what noetherian means. Hence I try to avoid it in names or try to provide aliases with finite. 

What do you think?

Comment (erdOne) [reply Mathlib/RingTheory/Noetherian/Basic.lean]: We probably still want the old version with `T.FG -> S.FG` for usability though. 

Edit: I now saw that you had already kept it. 

> Some don't know what noetherian means. Hence I try to avoid it in names or try to provide aliases with finite.

I don't think this is a big concern for mathlib. IMO it is much more confusing for the lemma name to be different from what the statement actually says.

File: Mathlib/RingTheory/Noetherian/Basic.lean [hunk 3]
```diff
@@ -357,3 +357,21 @@ instance {ι} [Finite ι] : ∀ {R : ι → Type*} [Π i, Semiring (R i)] [∀ i
   · exact fun e h ↦ isNoetherianRing_of_ringEquiv _ (.piCongrLeft _ e)
   · infer_instance
   · exact fun ih ↦ isNoetherianRing_of_ringEquiv _ (.symm .piOptionEquivProd)
+
+namespace Submodule
+
+variable {R M : Type*} [Ring R] [AddCommGroup M] [Module R M]
+
+/-- A submodule contained in an noetherian submodule is FG. -/
+theorem FG.of_le_isNoetherian {S T : Submodule R M} [IsNoetherian R T] (hST : S ≤ T) : S.FG :=
```
Comment (erdOne) [inline Mathlib/RingTheory/Noetherian/Basic.lean]:
```suggestion
theorem FG.of_le_of_isNoetherian {S T : Submodule R M} [IsNoetherian R T] (hST : S ≤ T) : S.FG :=
```

File: Mathlib/RingTheory/Noetherian/Basic.lean [hunk 4]
```diff
@@ -357,3 +357,21 @@ instance {ι} [Finite ι] : ∀ {R : ι → Type*} [Π i, Semiring (R i)] [∀ i
...
+  isNoetherian_submodule.mp inferInstance _ hST
+
+/-- A submodule contained in a finite dimensional submodule is FG. -/
+alias FG.of_le_finite := FG.of_le_isNoetherian
```
Comment (erdOne) [inline Mathlib/RingTheory/Noetherian/Basic.lean]: So I don't think we want this. 
If you prefer you can add a version with `FiniteDimensional` instead for discoverability.

**Comment by martinwintermath** [comment]
See [#mathlib4 > inf/sup lemmas for upwards/downwards closed classes](https://leanprover.zulipchat.com/#narrow/channel/287929-mathlib4/topic/inf.2Fsup.20lemmas.20for.20upwards.2Fdownwards.20closed.20classes/with/569431783) for discussing the inf/sup lemmas.

File: Mathlib/RingTheory/Noetherian/Basic.lean [hunk 5]
```diff
@@ -357,3 +357,18 @@ instance {ι} [Finite ι] : ∀ {R : ι → Type*} [Π i, Semiring (R i)] [∀ i
...
+
+namespace Submodule
+
+variable {R M : Type*} [Ring R] [AddCommGroup M] [Module R M]
+
+/-- A submodule contained in an noetherian submodule is FG. -/
+theorem FG.of_le_of_isNoetherian {S T : Submodule R M} [IsNoetherian R T] (hST : S ≤ T) : S.FG :=
+  isNoetherian_submodule.mp inferInstance _ hST
+
+/-- A submodule contained in an FG submodule is FG. -/
```
Comment (erdOne) [inline Mathlib/RingTheory/Noetherian/Basic.lean]:
```suggestion
/-- A submodule contained in an FG submodule is FG over noetherian rings. -/
```

**Review by erdOne — APPROVED** [review]
Thanks!
maintainer delegate
